* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS1\TS1_LTSpice.asc
XU1 N002 N003 V2 opamp Aol=100K GBW=10Meg
R1 N002 N001 1k
R2 V2 N002 1k
R3 0 N003 1k
C1 N003 N001 10µ
V1 N001 0 AC 1
.ac dec 1000 100m 100k
.include opamp.sub
.backanno
.end
